US04582837
2-(2'-Methoxy-4'-trifluoromethanesulfonyloxy-phenyl)-benzimidazole
Prepared analogously to Example 1 from 2-(2'-methoxy-4'-hydroxyphenyl)-benzimidazole and trifluoromethanesulfonic acid anhydride.

reactant | 2-(2'-methoxy-4'-hydroxyphenyl)-benzimidazole | COC1=C(C=CC(=C1)O)C=1NC2=C(N1)C=CC=C2 | C14H12N2O2
reactant | trifluoromethanesulfonic acid anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 2-(2'-Methoxy-4'-trifluoromethanesulfonyloxy-phenyl)-benzimidazole | COC1=C(C=CC(=C1)OS(=O)(=O)C(F)(F)F)C=1NC2=C(N1)C=CC=C2 | C15H11F3N2O4S
